US05614639
To a solution of 6-methoxybenzo[b]thiophene (18.13 g, 0.111 mol) in 150 mL of anhydrous tetrahydrofuran (THF) at -60° C. was added n-butyllithium (76.2 mL, 0.122 mol, 1.6M solution in hexanes), dropwise via syringe. After stirring for 30 minutes, triisopropyl borate (28.2 mL, 0.122 mol) was introduced via syringe. The resulting mixture was allowed to gradually warm to 0° C. and then distributed between 1N hydrochloric acid and ethyl acetate (300 mL each). The layers were separated, and the organic layer was dried over sodium sulfate. Concentration in vacuo produced a white solid that was triturated from ethyl ether hexanes. Filtration provided 16.4 g (71%) of 6-methoxybenzo[b]thiophene-2-boronic acid as a white solid. mp 200° C. (dec). 1H NMR (DMSO-D6) d 7.83 (s, 1H), 7.78 (d, J=8.6 Hz, 1H), 7.51 (d, J=2.0 Hz, 1H), 6.97 (dd, J=8.6, 2.0 Hz, 1H), 3.82 (s, 3H). FD mass spec: 208.

reactant | 6-methoxybenzo[b]thiophene | 0.111 mol, 18.13 g | COC=1C=CC2=C(SC=C2)C1 | C9H8OS
reactant | n-butyllithium | 0.122 mol, 1.6M, 76.2 mL | C(CCC)[Li]
reactant | triisopropyl borate | 0.122 mol, 28.2 mL | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
product | 6-methoxybenzo[b]thiophene-2-boronic acid | 16.4 g, 71% | COC=1C=CC2=C(SC(=C2)B(O)O)C1 | C9H9BO3S
